US07022851B2
4-{[4-N-(Benzhydryloxycarbonyl)-cytosin-1-yl]acetyl}-1-(4-chloro-2-nitro-benzenesulfonyl)-piperazin-2-one
The title compound (0.56 g, 27%) was synthesized by reaction of 1-(4-chloro-2-nitro-benzenesulfonyl)-piperazin-2-one HCl salt (1.07 g, 3.0 mmol) with [4-N-(benzhydryloxycarbonyl)-cytosin-1-yl]-acetic acid (1.14 g, 3.0 mmol), as per the procedure of example 77. 1H NMR(DMSO-d6) δ 10.98(s, 11H), 8.40(s, 1H), 8.32(m, 11H), 8.07(m, 11H), 7.89(d, 0.6H), 7.85(d, 0.4H), 7.46˜7.28(m, 1H), 6.96(m, 1H), 6.79(s, 1H), 4.81(s, 1.2H), 4.73(s, 0.8H), 4.45(s, 0.8H), 4.27(s, 1.2H), 4.07˜3.97(m, 2.4H), 3.90˜3.80(m, 1.6H).

reactant | 1-(4-chloro-2-nitro-benzenesulfonyl)-piperazin-2-one HCl salt | 3.0 mmol, 1.07 g | Cl.ClC1=CC(=C(C=C1)S(=O)(=O)N1C(CNCC1)=O)[N+](=O)[O-]
reactant | [4-N-(benzhydryloxycarbonyl)-cytosin-1-yl]-acetic acid | 3.0 mmol, 1.14 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)NC1=NC(N(C=C1)CC(=O)O)=O | C20H17N3O5
product | 4-{[4-N-(Benzhydryloxycarbonyl)-cytosin-1-yl]acetyl}-1-(4-chloro-2-nitro-benzenesulfonyl)-piperazin-2-one | 0.56 g, 27% | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)NC1=NC(N(C=C1)CC(=O)N1CC(N(CC1)S(=O)(=O)C1=C(C=C(C=C1)Cl)[N+](=O)[O-])=O)=O | C30H25ClN6O9S
